US07157546B2
A. Preparation of 2-(4,4-diethoxy-butoxy)ethanol (Compound 15A).
A mixture of anhydrous ethylene glycol (120 g, 1.93 moles), a 1.0M solution of potassium tert-butoxide in tert-butanol (70 ml, 0.07 moles), and 4-chlorobutyraldehyde diethyl acetal (11 g, 0.061 moles) is stirred overnight at 100° C. under an argon atmosphere. After cooling to room temperature, the reaction mixture is added to 600 ml distilled water. The product is extracted with dichloromethane (150, 125, and 125 ml). The combined extracts are then dried with anhydrous magnesium sulfate and the solvent is distilled off under reduced pressure. Next the product is subjected to vacuum distillation (kugelrohr, t=90–110° C., 0.10 mm Hg). Yield 5.5 g.

reactant | ethylene glycol | 1.93 moles, 120 g | C(CO)O | C2H6O2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | tert-butanol | 0.07 moles, 70 ml | C(C)(C)(C)O | C4H10O
reactant | 4-chlorobutyraldehyde diethyl acetal | 0.061 moles, 11 g | C(C)OC(CCCCl)OCC | C8H17ClO2
product | 2-(4,4-diethoxy-butoxy)ethanol | C(C)OC(CCCOCCO)OCC | C10H22O4
